US05338755
Butyl 5-chloro-3-cyclohexyl-3-hydroxy-1-tosylindoline-2-carboxylate
This compound is prepared by the reaction of butyl bromoacetate with 5-chloro-2-tosylaminophenyl cyclohexyl ketone, followed by cyclization in the presence of sodium methylate in butanol.

reactant | butyl bromoacetate | BrCC(=O)OCCCC | C6H11BrO2
reactant | 5-chloro-2-tosylaminophenyl cyclohexyl ketone | C1(CCCCC1)C(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C)C=C1 | C20H22ClNO3S
reactant | sodium methylate | C[O-].[Na+]
solvent | butanol | C(CCC)O | C4H10O
product | Butyl 5-chloro-3-cyclohexyl-3-hydroxy-1-tosylindoline-2-carboxylate | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCCCC)(O)C1CCCCC1 | C26H32ClNO5S
